US07157447B2
N-(4-Fluoro-2-(3-(methylthio)prop-1-ynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 183, 3-[2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl]prop-2-ynyl methanesulfonate (0.160 g, 0.28 mmol) in N,N-dimethylformamide (3 ml) was treated at 0° C. with sodium thiomethoxide (0.026 g, 0.37 mmol) and the resulting mixture stirred for 2 h. The reaction mixture was then diluted with ethyl acetate, washed with saturated sodium bicarbonate and brine, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Chromatography of the residue on silica gel (elution gradient of ethyl acetate in hexane) gave 0.114 g (78% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ ppm: 1.64 (6H, s, 2×CH3), 2.28 (3H, s, SCH3), 3.45 (2H, s, SCH2), 4.05 (4H, m, 2×CH2), 4.69 (2H, d, J=6.1 Hz, NCH2), 5.31 (2H, s, OCH2), 6.98 (1H, m, aromatic), 7.15 (1H,dd, J=3 Hz and J=9.1 Hz, aromatic), 7.32–7.38 (4H, m, aromatics), 7.50–7.53 (2H, m, aromatics), 7.80 (1H, broad t, NH). HRMS (ESI+) calculated for C28H29FN3O4S [M+H+]: 522.1863. found: 522.1844.

reactant | 3-[2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl]prop-2-ynyl methanesulfonate | 0.28 mmol, 0.160 g | CS(=O)(=O)OCC#CC1=C(C=CC(=C1)F)CNC(=O)C=1N=C2C(OCCN2C(C1OCC1=CC=CC=C1)=O)(C)C | C28H28FN3O7S
reactant | sodium thiomethoxide | 0.37 mmol, 0.026 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluoro-2-(3-(methylthio)prop-1-ynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.114 g, 78% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C#CCSC | C28H28FN3O4S
